US07183443B2
To a solution of 9.0 g (49 mmol) of (R)-2-amino-3-phenylpropionitrile.HCl-salt (97.5% e.e.) in 280 mL of methanol-water 1:1 was added 2.2 equiv. of conc. HCl solution and 2.0 g of 5% Pd/C. The solution was hydrogenated for 19 h at 35° C. and 0.9 MPa of hydrogen pressure. Then additional 2 g of Pd/C was added and hydrogenation was continued for 24 h at 3.0 MPa. According to chiral HPLC 91% of (R)-2-amino-3-phenyl-1-propanol was formed together with 6% of (R)-3-phenyl-1,2-diaminopropane The reaction mixture was filtered and partially evaporated. The solution was basified to pH 10 using diluted NaOH solution and extracted with CH2CL2. The organic solution was dried over Na2SO4 and evaporated.

reactant | (R)-2-amino-3-phenylpropionitrile | 49 mmol, 9.0 g | N[C@@H](C#N)CC1=CC=CC=C1 | C9H10N2
reactant | HCl | 2.2 equiv. | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | (R)-2-amino-3-phenyl-1-propanol | N[C@@H](CO)CC1=CC=CC=C1 | C9H13NO
solvent | methanol water | 280 mL | CO.O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
catalyst | Pd/C | 2 g | [Pd] | Pd
product | (R)-3-phenyl-1,2-diaminopropane | 6% | C1(=CC=CC=C1)C[C@H](CN)N | C9H14N2
